US04143055
N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)acetamide
This compound is prepared according to the procedures of example 10 by reacting 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine with acetyl chloride. M.p. 104° C. (from isopropyl ether/ethyl alcohol).

reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine | COC=1C=C2C(CC(O2)C)=C(C1)N | C10H13NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | isopropyl ether ethyl alcohol | C(C)(C)OC(C)C.C(C)O
product | N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)acetamide | COC1=CC2=C(CC(O2)C)C(=C1)NC(C)=O | C12H15NO3
